US05939556
33b. Methyl (S)-(4-(4-(ethoxy-imino-methyl)phenyl)-3,4-dimethyl-2,5-dioxo-imidazolidin-1-yl)acetate hydrochloride
A solution of 2.56 g of methyl (S)-(4-(4-cyanophenyl)-3,4-dimethyl-2,5-dioxoimidazolidin-1-yl)acetate (8.5 mmol) in 40 ml of absolute ethanol was cooled to 0° C. Dry hydrogen chloride gas was passed into the solution, the temperature always being kept below 10° C., until the nitrile band was no longer present in the IR spectrum. The ethanolic solution was concentrated to 20 ml and treated with 200 ml of diethyl ether. The suspension was concentrated and dried in a high vacuum.

reactant | methyl (S)-(4-(4-cyanophenyl)-3,4-dimethyl-2,5-dioxoimidazolidin-1-yl)acetate | 8.5 mmol, 2.56 g | C(#N)C1=CC=C(C=C1)[C@@]1(N(C(N(C1=O)CC(=O)OC)=O)C)C | C15H15N3O4
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 40 ml | C(C)O | C2H6O
product | Methyl (S)-(4-(4-(ethoxy-imino-methyl)phenyl)-3,4-dimethyl-2,5-dioxo-imidazolidin-1-yl)acetate hydrochloride | Cl.C(C)OC(C1=CC=C(C=C1)[C@@]1(N(C(N(C1=O)CC(=O)OC)=O)C)C)=N | InChI=1S/C17H21N3O5.ClH/c1-5-25-14(18)11-6-8-12(9-7-11)17(2)15(22)20(10-13(21)24-4)16(23)19(17)3;/h6-9,18H,5,10H2,1-4H3;1H/t17-;/m0./s1
